US07557112B2
A solution of tert-butanol of N-methylmorpholine-N-oxide and osmium tetroxide was added to a mixture of 1-benzyl-4-methyleneazepane hydrochloride and THF-water and stirred at room temperature for 24 hours. Then the reaction solution was processed with 4M hydrochloric acid (HCl)-ethyl acetate (EtOAc) solution to give 1-benzyl-4-(hydroxymethyl)azepane-4-ol hydrochloride. 10% palladium carbon was added to a solution of EtOH of the obtained 1-benzyl-4-(hydroxymethyl)azepane-4-ol hydrochloride and stirred for six hours at room temperature under the hydrogen atmosphere to give 4-(hydroxymethyl)azepane-4-ol hydrochloride.

reactant | 1-benzyl-4-(hydroxymethyl)azepane-4-ol hydrochloride | Cl.C(C1=CC=CC=C1)N1CCC(CCC1)(O)CO
reactant | hydrogen | [H][H] | H2
catalyst | palladium carbon | [C].[Pd]
solvent | EtOH | CCO | C2H6O
product | 4-(hydroxymethyl)azepane-4-ol hydrochloride | Cl.OCC1(CCNCCC1)O | InChI=1S/C7H15NO2.ClH/c9-6-7(10)2-1-4-8-5-3-7;/h8-10H,1-6H2;1H
